US04086094
In 500 ml of a 90% acetic acid aqueous solution, 50 g of 1-hydroxy-4-nitro-N-[γ-(2,4-di-tert-amylphenoxy)propyl]-2-naphthamide was reduced with 50 g of iron as a reducing agent. The reaction mixture was added to water and then was extracted with ethyl acetate. After evaporating off the ethyl acetate, the crystals were recrystallized from ligroin to provide 40 g of 1-hydroxy-4-amino-N-[γ-2,4-di-tert-amylphenoxy)propyl]-2-naphthamide having a melting point of 132° to 133° C.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 1-hydroxy-4-nitro-N-[γ-(2,4-di-tert-amylphenoxy)propyl]-2-naphthamide | 50 g | OC1=C(C=C(C2=CC=CC=C12)[N+](=O)[O-])C(=O)NCCCOC1=C(C=C(C=C1)C(C)(C)CC)C(C)(C)CC | C30H38N2O5
catalyst | iron | 50 g | [Fe] | Fe
solvent | water | O | H2O
product | 2-naphthamide | C1=C(C=CC2=CC=CC=C12)C(=O)N | C11H9NO
